US07435823B2
Step (b) Preparation of 6-(7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-1-naphthoyl chloride
To a solution of 6-(7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-1-naphthoic acid (357 mg, 1.17 mmol) in DCM (11.7 mL) under an N2 atmosphere, was added DMF (2 drops) followed by (COCl)2 (143 μL, 1.64 mmol) dropwise. After stirring at RT for 4 hours, the reaction mixture became a yellow slurry. An aliquot was removed and placed in a vial containing 500 μl of 1 M MeNH2. After 5 min, the resulting solution was analyzed by LCMS to indicate complete conversion to the methylamine and that no acid was present in the reaction mixture. The slurry was concentrated to a yellow stable solid, which was taken directly to the next step of the reaction sequence.

reactant | 6-(7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-1-naphthoic acid | 1.17 mmol, 357 mg | N1=CN=C(C2=C1NC=C2)OC=2C=C1C=CC=C(C1=CC2)C(=O)O | C17H11N3O3
reactant | (COCl)2 | 1.64 mmol, 143 μL | C(=O)(C(=O)Cl)Cl | C2Cl2O2
solvent | DCM | 11.7 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 6-(7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-1-naphthoyl chloride | N1=CN=C(C2=C1NC=C2)OC=2C=C1C=CC=C(C1=CC2)C(=O)Cl | C17H10ClN3O2
